US08735584B2
N-[4-(9-Trifluoromethyl-6-oxo-5,6-dihydro-benzo[c][1,8]naphthyridin-1-ylamino)-phenyl]-benzamide (403)
The title compound was synthesized according to the procedure described for the preparation of Example 378, method 2 using 1-chloro-9-trifluoromethyl-5H-benzo[c][1,8]naphthyridin-6-one and N-(4-amino-phenyl)-benzamide to provide 403. LC-MS (M+H=475, obsd.=475). 1H NMR (400 MHz, DMSO-d6): δ 6.96 (d, 1H), 7.18 (d, 2H), 7.54 (m, 3H), 7.76 (m, 2H), 7.78 (d, 1H), 7.97 (d, 1H), 8.10 (d, 1H), 8.27 (s, 1H), 8.85 (d, 1H), 8.99 (s, 1H), 10.25 (s, 1H).

reactant | 1-chloro-9-trifluoromethyl-5H-benzo[c][1,8]naphthyridin-6-one | ClC1=C2C3=C(C(NC2=NC=C1)=O)C=CC(=C3)C(F)(F)F | C13H6ClF3N2O
reactant | N-(4-amino-phenyl)-benzamide | NC1=CC=C(C=C1)NC(C1=CC=CC=C1)=O | C13H12N2O
product | N-[4-(9-Trifluoromethyl-6-oxo-5,6-dihydro-benzo[c][1,8]naphthyridin-1-ylamino)-phenyl]-benzamide | FC(C1=CC2=C(C(NC3=NC=CC(=C23)NC2=CC=C(C=C2)NC(C2=CC=CC=C2)=O)=O)C=C1)(F)F | C26H17F3N4O2
